US09212182B2
A screw cap vial was charged with 6-(benzylthio)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one (1.22 g, 2.506 mmol), (3-fluorophenyl)boronic acid (0.526 g, 3.76 mmol), potassium carbonate (1.039 g, 7.52 mmol) and Pd(Ph3P)4 (0.290 g, 0.251 mmol). The vial was flushed with Ar (g), then 1,4-dioxane (9.4 ml) and water (3.1 ml) were added in sequence. The reaction was heated to 90° C. for 1 hour. The mixture was diluted with NH4Cl and extracted with EtOAc (3×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (40-g Ultra SNAP column, 25-g silica gel loading column, 0-50% EtOAc/Heptane) to give 6-(benzylthio)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one (1.02 g, 2.03 mmol, 81% yield) as a cream-colored solid. m/z (ESI) 502.2 (M+H)+.

reactant | 6-(benzylthio)-1-(4-bromo-5-chloro-2-methoxyphenyl)quinolin-2(1H)-one | 2.506 mmol, 1.22 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)Cl)Br)OC)=O | C23H17BrClNO2S
reactant | (3-fluorophenyl)boronic acid | 3.76 mmol, 0.526 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 7.52 mmol, 1.039 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 0.251 mmol, 0.290 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(benzylthio)-1-(2-chloro-3′-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)quinolin-2(1H)-one | 2.03 mmol, 1.02 g, 81% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=CC(=C(C=C1OC)C1=CC(=CC=C1)F)Cl)=O | C29H21ClFNO2S
